US04073909
0.3 g of potassium are dissolved in 15 cc of absolute tert.butanol, and 1.5 g of 1-chloro-7-methoxyisoquinoline and 1.7 g of 5-hydroxymethyl-3-isopropyl-2-phenyl-oxazolidine are added. The solution is heated to 50° for 1 hour, whereupon it is evaporated to dryness. The product is digested with water, extracted with ether, the ether phase is dried and the ether is distilled off. 1-(3-isopropyl-2-phenyl-5-oxazolidinylmethoxy)-7-methoxyisoquinoline is obtained as an oil.

reactant | potassium | 0.3 g | [K] | K
reactant | 1-chloro-7-methoxyisoquinoline | 1.5 g | ClC1=NC=CC2=CC=C(C=C12)OC | C10H8ClNO
reactant | 5-hydroxymethyl-3-isopropyl-2-phenyl-oxazolidine | 1.7 g | OCC1CN(C(O1)C1=CC=CC=C1)C(C)C | C13H19NO2
solvent | tert.butanol | 15 cc | C(C)(C)(C)O | C4H10O
product | 1-(3-isopropyl-2-phenyl-5-oxazolidinylmethoxy)-7-methoxyisoquinoline | C(C)(C)N1C(OC(C1)COC1=NC=CC2=CC=C(C=C12)OC)C1=CC=CC=C1 | C23H26N2O3
